US06248740B1
25 g of 4,4′-difluorobenzophenone was dissolved in ethanol-tetrahydrofuran (180 ml-60 ml); 2.16 g of sodium borohydride was added under ice cooling conditions, followed by stirring at room temperature for 30 minutes. The mixture was concentrated under reduced pressure; the residue was diluted with ice water and extracted with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the oily substance obtained was dissolved in 800 ml of toluene; 11.6 g of 4-hydroxypiperidine and 23.7 g of p-toluenesulfonic acid monohydrate were added, followed by thermal refluxing for 2 hours. After cooling, the mixture was concentrated under reduced pressure; ice water and 130 ml of a 1 N aqueous solution of sodium hydroxide were added, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the oily substance obtained (34.5 g) was dissolved in 100 ml of N,N-dimethylformamide; 16.3 g of N-(3-bromopropyl)phthalimide and 10.5 g of potassium carbonate were added, followed by stirring at room temperature for 20 hours. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (1:2). The desired fraction was collected to yield 20.5 g of N-[3-[4-[bis(4-fluorophenyl)methoxy]piperidino]propyl]-phthalimide as an oily substance. 20.5 g of this oily substance was dissolved in 150 ml of ethanol; 2.02 ml of hydrazine monohydrate was added, followed by thermal refluxing for 3 hours. After cooling, the mixture was concentrated under reduced pressure; ethanol was added to the residue; the crystal precipitated was collected, dissolved in 40 ml of a 1 N aqueous solution of sodium hydroxide and extracted with ethyl acetate-tetrahydrofuran (2:1); the extract was washed with saline and dried with sodium sulfate. The dry product was concentrated under reduced pressure to yield 12.07 g of the title compound as an oily substance.

reactant | 4,4′-difluorobenzophenone | 25 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | sodium borohydride | 2.16 g | [BH4-].[Na+]
reactant | 4-hydroxypiperidine | 11.6 g | OC1CCNCC1 | C5H11NO
reactant | p-toluenesulfonic acid monohydrate | 23.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-(3-bromopropyl)phthalimide | 16.3 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 10.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol tetrahydrofuran | 180 ml-60 ml | C(C)O.O1CCCC1
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[3-[4-[bis(4-fluorophenyl)methoxy]piperidino]propyl]-phthalimide | 20.5 g | FC1=CC=C(C=C1)C(OC1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=C(C=C2)F | C29H28F2N2O3
